US08222416B2
A mixture of N-{4-[2-cyclopentyl-1-(1H-pyrrolo[2,3-b]pyridin-2-yl)-vinyl]-phenyl}-methanesulfonamide (83 mg, 0.22 mmol) and 10% palladium on activated carbon (30 mg) in methanol (250 mL) was heated at 50° C. under hydrogen (50 psi) for 5 h. The mixture was cooled to room temperature, the catalyst was removed by filtration and washed with ethyl acetate. The filtrate was concentrated in vacuo. Purification using a Waters automated flash system (column: Xterra 30 mm×100 mm, sample manager 2767, pump 2525, detector: ZQ mass and UV 2487, solvent system: acetonitrile and 0.1% ammonium hydroxide in water) afforded N-{4-[2-cyclopentyl-1-(1H-pyrrolo[2,3-b]pyridin-2-yl)-ethyl]-phenyl}-methanesulfonamide (45 mg, 54%): LC/MS m/e calcd for C21H25N3O2S [M+H]+ 384.52, observed 384.0; 1H NMR (400 MHz, CD3OD) δ ppm 8.04 (d, J=4.0 Hz, 1H), 7.85 (d, J=7.6 Hz, 1H), 7.25-7.31 (m, J=8.3 Hz, 2H), 7.14-7.21 (m, J=8.3 Hz, 2H), 7.00 (dd, J=7.7, 4.9 Hz, 1H), 6.30 (s, 1H), 4.60 (br. s., 1H), 4.13 (t, J=7.8 Hz, 1H), 2.89 (s, 3H), 2.19 (dt, J=13.7, 7.2 Hz, 1H), 2.00-2.08 (m, 1H), 1.57-1.84 (m, 5H), 1.42-1.53 (m, 2H), 1.12-1.26 (m, 2H).

reactant | N-{4-[2-cyclopentyl-1-(1H-pyrrolo[2,3-b]pyridin-2-yl)-vinyl]-phenyl}-methanesulfonamide | 0.22 mmol, 83 mg | C1(CCCC1)C=C(C1=CC=2C(=NC=CC2)N1)C1=CC=C(C=C1)NS(=O)(=O)C | C21H23N3O2S
catalyst | palladium on activated carbon | 30 mg | [Pd] | Pd
solvent | methanol | 250 mL | CO | CH4O
product | N-{4-[2-cyclopentyl-1-(1H-pyrrolo[2,3-b]pyridin-2-yl)-ethyl]-phenyl}-methanesulfonamide | 45 mg, 54% | C1(CCCC1)CC(C1=CC=2C(=NC=CC2)N1)C1=CC=C(C=C1)NS(=O)(=O)C | C21H25N3O2S
